US04767780
Methylhydrazine (52.5 g) was dropwise to a mixture of 6-chloro-1-formyl-3-hydroxymethylene-4-oxo-1,2,3,4-tetrahydroquinoline (276 g) and acetic acid (13 ml) in methanol (2.76 liters) at 10° C. to 12° C. over a period of 10 minutes. After being stirred for 1.5 hours at the same temperature, the resulting precipitate was collected by filtration, washed with methanol and dried to give 8-chloro-4,5-dihydro-5-formyl-1-methyl-1H -pyrazolo[4,3-c]quinoline (174 g).

reactant | Methylhydrazine | 52.5 g | CNN | CH6N2
reactant | 6-chloro-1-formyl-3-hydroxymethylene-4-oxo-1,2,3,4-tetrahydroquinoline | 276 g | ClC=1C=C2C(C(CN(C2=CC1)C=O)=CO)=O | C11H8ClNO3
reactant | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 2.76 liters | CO | CH4O
product | 8-chloro-4,5-dihydro-5-formyl-1-methyl-1H -pyrazolo[4,3-c]quinoline | 174 g | ClC1=CC=2C3=C(CN(C2C=C1)C=O)C=NN3C | C12H10ClN3O
